US06461391B1
To a solution of [1-(4-nitrophenyl)-pyrrolidin-3-yl] dimethylamine (470 mg, 2.0 mmole) in dimethylforamide (2 mL) was added methyl iodide (567 mg., 4.0 mmole). The reaction mixture was stirred at 60° C. for 18 hrs and cooled to room temperature. Diethyl ether was added and the resulting precipitate was filtered and washed with ether three times to give 1-(4-nitrophenyl)-N,N,N-trimethylpyrrolidin-3-aminium iodide (894 mg, 92% yield): 1HNMR (400 MHz, DMSO-d6)δ 2.50 (m, 2H), 3.15 (s, 9H), 3.43 (m, 1H), 3.71 (m, 2H), 3.87 (m, 1H), 4.37 (m, 1H), 6.74 (d, 2H, J=9 Hz), 8.12(d, 2H, J=9 Hz). This compound was hydrogenated at 60 psi in menthol in the presence of 10% Pd/C at room temperature for about 18 hrs. The reaction mixture was filtered through a pad of Celite and washed with methanol. The filtrate was evaporated in vacuo to produce 1-(4-aminophenyl)-N,N,N-trimethylpyrrolidin-3-aminium iodide (505 mg, 95% yield): 1HNMR (400 MHz, DMSO-d6)δ 2.32 (m, 2H), 2.94 (m, 1H), 3.09 (s, 9H), 3.17 (m, 2H), 3.71 (m, 2H), 4.25 (m, 1H), 4.66 (bs, 2H), 6.52 (s, 4H): MS m/z=219. This is Compound 1 of Table 1.

reactant | [1-(4-nitrophenyl)-pyrrolidin-3-yl] dimethylamine | 2.0 mmole, 470 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H17N3O2
reactant | methyl iodide | 4.0 mmole, 567 mg | CI | CH3I
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dimethylforamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(4-nitrophenyl)-N,N,N-trimethylpyrrolidin-3-aminium iodide | 894 mg, 92% yield | [I-].[N+](=O)([O-])C1=CC=C(C=C1)N1CC(CC1)[N+](C)(C)C | InChI=1S/C13H20N3O2.HI/c1-16(2,3)13-8-9-14(10-13)11-4-6-12(7-5-11)15(17)18;/h4-7,13H,8-10H2,1-3H3;1H/q+1;/p-1
